* Installed SKY130 passive geometry qualification, not layout DRC.
.lib /foss/pdks/sky130A/libs.tech/combined/sky130.lib.spice tt
.temp 27
V1 R1 0 1
V2 R2 0 1
VC C1 0 dc 0 ac 1
XR1 R1 0 0 sky130_fd_pr__res_high_po_1p41 L=10
XR2 R2 0 0 sky130_fd_pr__res_high_po_1p41 L=50
XC C1 0 sky130_fd_pr__cap_mim_m3_1 W=44.5 L=44.5
.control
set wr_singlescale
set wr_vecnames
op
let r1=-1/i(v1)
let r2=-1/i(v2)
wrdata resistor.dat r1 r2
ac lin 1 1000 1000
let ceff=-imag(i(vc))/(2*pi*1000)
wrdata capacitor.dat ceff
quit
.endc
.end
