* NGSPICE file created from nfet_unit.ext - technology: sky130A

.subckt nfet_unit B D S G
X0 S G D B sky130_fd_pr__nfet_01v8 ad=0.58 pd=4.58 as=0.58 ps=4.58 w=2 l=1
C0 D G 0.10986f
C1 S D 0.05958f
C2 S G 0.10986f
C3 S B 0.44533f
C4 D B 0.44533f
.ends

